US07645789B2
To a solution of 2-bromo-5-fluoro-4-nitroaniline (23.0 g, 0.1 mol) in Et3N (250 mL) was added benzoic 2,2-dimethylbut-3-ynoic anhydride (59.0 g, 0.29 mol), CuI (1.85 g) and Pd(PPh3)2Cl2 (2.3 g) at room temperature. The mixture was stirred at 80° C. overnight. After cooling to room temperature, the reaction was quenched with water and the aqueous layer was extracted with ethyl acetate (100 mL×3). The combined organic layer was dried over anhydrous Na2SO4, the solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel (10% ethyl acetate in petroleum ether) to give benzyl 4-(2-amino-4-fluoro-5-nitrophenyl)-2,2-dimethylbut-3-ynoate (20.0 g, 56%). 1H NMR (400 MHz, CDCl3) 8.05 (d, J=8.4 Hz, 1H), 7.39-7.38 (m, 5H), 6.33 (d, J=13.2 Hz, 1H), 5.20 (s, 2H), 4.89 (br s, 2H), 1.61 (s, 6H).

reactant | 2-bromo-5-fluoro-4-nitroaniline | 0.1 mol, 23.0 g | BrC1=C(N)C=C(C(=C1)[N+](=O)[O-])F | C6H4BrFN2O2
reactant | 2,2-dimethylbut-3-ynoic anhydride | 0.29 mol, 59.0 g | CC(C(=O)OC(C(C#C)(C)C)=O)(C#C)C | C12H14O3
reactant | Et3N | 250 mL | CCN(CC)CC | C6H15N
catalyst | CuI | 1.85 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 2.3 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | benzyl 4-(2-amino-4-fluoro-5-nitrophenyl)-2,2-dimethylbut-3-ynoate | 20.0 g, 56% | NC1=C(C=C(C(=C1)F)[N+](=O)[O-])C#CC(C(=O)OCC1=CC=CC=C1)(C)C | C19H17FN2O4
